US06949579B2
10.1 cm3 of tetrabutylammonium fluoride as a 1M solution in tetrahydrofuran are added to 1 g of N-[6-[4-(phenylmethoxy)phenyl]-5-phenyl-1-[[2-(trimethylsilyl)-ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously, in 40 cm3 of tetrahydrofuran, and the mixture is refluxed for 18 hours; after cooling, 75 cm3 of ethyl acetate are added and the organic phase is washed successively with 100 cm3 of saturated sodium hydrogen carbonate solution and with 75 cm3 of saturated sodium chloride solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 50° C.) to give 2 g of crude product, which is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 3.5 cm), eluting with a cyclohexane/ethyl acetate mixture (80/20 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.); the residue is dried (90 Pa; 45° C.) to give 650 mg of N-[5-phenyl-6-[4-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide in the form of a yellow oil.

reactant | tetrabutylammonium fluoride | 10.1 cm3 | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[6-[4-(phenylmethoxy)phenyl]-5-phenyl-1-[[2-(trimethylsilyl)-ethoxy]methyl]-1H-indazol-3-yl]butanamide | 1 g | C1(=CC=CC=C1)COC1=CC=C(C=C1)C1=C(C=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O)C1=CC=CC=C1 | C36H41N3O3Si
reactant | ethyl acetate | 75 cm3 | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 cm3 | O1CCCC1 | C4H8O
product | N-[5-phenyl-6-[4-(phenylmethoxy)phenyl]-1H-indazol-3-yl]butanamide | 650 mg | C1(=CC=CC=C1)C=1C=C2C(=NNC2=CC1C1=CC=C(C=C1)OCC1=CC=CC=C1)NC(CCC)=O | C30H27N3O2
